US06475486B1
2,3,4,6-Tetra-O-benzyl-α-D-galactopyranosyl fluoride (Compound 8)
α-D-galactopyranosyl fluoride (2.30 g, 12.62 mmol) was dissolved in dry DMF (40 ml) and, at −20° C., benzyl bromide (12.95 g, 75.72 mmol) and silver oxide (10 g) were added. The reaction mixture was stirred at −20° C. for 5 h and then at room temperature for 24 h. The salts were then filtered off and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica gel (350 g) with 15:1 petroleum ether/ethyl acetate.

reactant | α-D-galactopyranosyl fluoride | 12.62 mmol, 2.30 g | [C@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)F | C6H11FO5
reactant | benzyl bromide | 75.72 mmol, 12.95 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | silver oxide | 10 g | [Ag]=O
product | 2,3,4,6-Tetra-O-benzyl-α-D-galactopyranosyl fluoride | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)F | C34H35FO5
